US06002008
3-Carbethoxy-4-chloro-6,7-dimethoxylquinoline
A mixture of 28.8 g of 3-carbethoxy-4-hydroxy-6,7-dimethoxyquinoline and 16.6 ml of phosphorous oxychloride was stirred at 1 10° C. for 30 min, cooled to 0° C., and treated with a mixture of ice and ammonium hydroxide. The resulting grey solid was filtered, washed with water and ether, and dried, mp 147-150° C.

reactant | 3-carbethoxy-4-hydroxy-6,7-dimethoxyquinoline | 28.8 g | C(=O)(OCC)C=1C=NC2=CC(=C(C=C2C1O)OC)OC | C14H15NO5
reactant | phosphorous oxychloride | 16.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-Carbethoxy-4-chloro-6,7-dimethoxylquinoline | C(=O)(OCC)C=1C=NC2=CC(=C(C=C2C1Cl)OC)OC | C14H14ClNO4
